US07208524B2
To a stirred solution of 2.59 g of 2-(4-isopropyl-phenyl)ethylamine in 10 mL of N,N-dimethylformamide were added 4.0 mL of triethylamine and 1.95 mL of trifluoroacetic anhydride under ice-cooling, and the mixture was stirred at room temperature for an hour. To the reaction mixture were added water and 10 mL of 1 mol/L hydrochloric acid, and the mixture was extracted three times with 20 mL of ethyl acetate. The organic layers were combined and washed with water, saturated aqueous sodium bicarbonate solution, and brine. The mixture was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. Hexane was added to the residue, and the crystal was collected by filtration to give 2.39 g of 2,2,2-trifluoro-N-[2-(4-isopropylphenyl)ethyl)acetamide.

reactant | 2-(4-isopropyl-phenyl)ethylamine | 2.59 g | C(C)(C)C1=CC=C(C=C1)CCN | C11H17N
reactant | triethylamine | 4.0 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.95 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | 1 mol/L, 10 mL | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,2,2-trifluoro-N-[2-(4-isopropylphenyl)ethyl)acetamide | 2.39 g | FC(C(=O)NCCC1=CC=C(C=C1)C(C)C)(F)F | C13H16F3NO
